US07151105B2
Step 5: 4-Bromo-2-ethyl-5-methoxy-pyridine
Phosphorous tribromide (5.5 mL) was added to a solution of 4-bromo-2-ethyl-5-methoxy-pyridine 1-oxide (1.25 g, 5.4 mmol) dissolved in CH2Cl2 (40 mL). The reaction mixture was heated to 50° C. for 1 hour. After cooling to room temperature the mixture was poured into ice and made basic with 15% NaOH and extracted with CH2Cl2. The organic extracts were dried over Na2SO4 and concentrated to a clear oil (1.13 g, 97%). 1H NMR (400 MHz, CDCl3): δ 1.28 (t, J=7.6 Hz, 3 H), 2.75 (q, J=7.6 Hz, 2 H), 3.97 (s, 3 H), 7.37 (s, 1 H), 8.13 (s, 1 H)

reactant | Phosphorous tribromide | 5.5 mL | P(Br)(Br)Br | Br3P
reactant | 4-bromo-2-ethyl-5-methoxy-pyridine 1-oxide | 5.4 mmol, 1.25 g | BrC1=CC(=[N+](C=C1OC)[O-])CC | C8H10BrNO2
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-ethyl-5-methoxy-pyridine | BrC1=CC(=NC=C1OC)CC | C8H10BrNO
